US04957928
While stirring at from 0° to 5°, a solution of 5.7 g (29 mmol) of 2,2-dimethyl-6-fluoro-3-oxo-chroman in 100 ml of absolute tetrahydrofuran is added dropwise within a period of 30 minutes to a suspension of 1.69 g (35 mmol) of sodium hydride dispersion (55% in mineral oil), which has been substantially freed of mineral oil beforehand by repeated washing with n-hexane, in 100 ml of absolute tetrahydrofuran. The mixture is then stirred at from 0° to 5° for 30 minutes and then a solution of 7.9 g (35 mmol) of phosphonoacetic acid triethyl ester of the formula (H5C2O)2P(=O)CH2C(=O)OC2H5 in 70 ml of absolute tetrahydrofuran is added dropwise thereto within a period of 30 minutes at from 0° to 5°. The reaction mixture is stirred for a further 30 minutes at from 0° to 5° and then for 16 hours at room temperature and then poured into 700 ml of cold phosphate buffer solution (pH=6). The resulting mixture is extracted with diethyl ether. The combined organic phases are washed in succession with phosphate buffer solution (pH=7) and water, dried over sodium sulfate and concentrated by evaporation. The resulting red oil is chromatographed on 400 g of silica gel (0.040-0.063 mm) with toluene as eluant, yielding 5.76 g (75% of the theoretical yield) of 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-2H-chromene in the form of an orange-coloured oil.

reactant | 2,2-dimethyl-6-fluoro-3-oxo-chroman | 29 mmol, 5.7 g | CC1(OC2=CC=C(C=C2CC1=O)F)C | C11H11FO2
reactant | sodium hydride | 35 mmol, 1.69 g | [H-].[Na+]
reactant | phosphonoacetic acid triethyl ester | 35 mmol, 7.9 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | phosphate | 700 ml, pH=6 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-2H-chromene | C(C)OC(=O)CC=1C(OC2=CC=C(C=C2C1)F)(C)C | C15H17FO3
